US04686227
A mixture of 1-amino-5-chloroisoquinoline (6.1 g), ethyl 2-acetyl-2-bromoacetate (10.75 g) and sodium bicarbonate (14.36 g) in ethanol (72 ml) was refluxed for 2 hours and then filtered by suction. The filtrate was evaporated in vacuo, and the residue was dissolved in a mixture of chloroform and methanol. The solution was treated with silica gel (10 g) and filtered by suction. The filtrate was evaporated in vacuo and the residue was recrystallized from ethanol to give 7-chloro-3-ethoxycarbonyl-2-methylimidazo[2,1-a]isoquinoline (5.83 g).

reactant | 1-amino-5-chloroisoquinoline | 6.1 g | NC1=NC=CC2=C(C=CC=C12)Cl | C9H7ClN2
reactant | ethyl 2-acetyl-2-bromoacetate | 10.75 g | C(C)(=O)C(C(=O)OCC)Br | C6H9BrO3
reactant | sodium bicarbonate | 14.36 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 72 ml | C(C)O | C2H6O
product | 7-chloro-3-ethoxycarbonyl-2-methylimidazo[2,1-a]isoquinoline | 5.83 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3C(=O)OCC)C | C15H13ClN2O2
